US06693123B2
[4-(3-Pyridylmethyloxymethyl)-2-phenylbenzoyl]methionine Methyl Ester
The desired compound was prepared by coupling of 4-(3-pyridylmethyloxymethyl)-2-phenylbenzoic acid with methionine methyl ester hydrochloride as described in Example 163D.

reactant | 4-(3-pyridylmethyloxymethyl)-2-phenylbenzoic acid | N1=CC(=CC=C1)COCC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C20H17NO3
reactant | methionine methyl ester hydrochloride | Cl.COC([C@@H](N)CCSC)=O
product | [4-(3-Pyridylmethyloxymethyl)-2-phenylbenzoyl]methionine Methyl Ester | COC([C@@H](NC(C1=C(C=C(C=C1)COCC=1C=NC=CC1)C1=CC=CC=C1)=O)CCSC)=O | C26H28N2O4S
